US06277987B1
A solution of the title E compound, (2R)-[t-butoxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]4-hydroxybutyric acid t-butyl ester (2.0 g, 9.58 mmol) in 50 mL dichloromethane is sequentially treated with iodine (2.88 g, 14.37 mmol), triphenylphosphine (3.72 g, 14.37 mmol) and imidazole (0.97 g, 14.37 mmol) at RT. After 2 h, 20 mL of methanol are added and the reaction mixture is stirred at RT for 30 min further. The solvent is evaporated and the product is purified by chomatography on silica gel (eluant; 1/19—EtOAc/hexane) to afford 2.46 g (78%) of (2R)-[t-butyloxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]-4-iodobutyric acid t-butyl ester.

reactant | (2R)-[t-butoxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]4-hydroxybutyric acid t-butyl ester | 9.58 mmol, 2.0 g | C(C)(C)(C)OC([C@@H](CCO)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C)=O | C25H32ClNO7S
reactant | iodine | 14.37 mmol, 2.88 g | II | I2
reactant | triphenylphosphine | 14.37 mmol, 3.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 14.37 mmol, 0.97 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | (2R)-[t-butyloxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]-4-iodobutyric acid t-butyl ester | 2.46 g, 78% | C(C)(C)(C)OC([C@@H](CCI)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C)=O | C25H31ClINO6S
